US08809361B2
5-(2-Fluoro-4-methylsulfonyl-phenyl)-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine]
The title compound is prepared from 5-chloro-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] and 2-fluoro-4-methylsulfonyl-phenylboronic acid following a procedure analogous to that described for Example 2; PdCl2[1,1′-bis(diphenylphosphino)-ferrocene]*CH2Cl2 complex is the preferred catalyst used. LC (method 1): tR=1.30 min; Mass spectrum (ESI+): m/z=503 [M+H]+.

reactant | 5-chloro-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | ClC=1C=C2C(=CN1)OC1(CC3(CCN(CC3)C(=O)OC(C)(C)C)C1)C2 | C19H25ClN2O3
reactant | 2-fluoro-4-methylsulfonyl-phenylboronic acid | FC1=C(C=CC(=C1)S(=O)(=O)C)B(O)O | C7H8BFO4S
product | 5-(2-Fluoro-4-methylsulfonyl-phenyl)-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | FC1=C(C=CC(=C1)S(=O)(=O)C)C=1C=C2C(=CN1)OC1(CC3(CCN(CC3)C(=O)OC(C)(C)C)C1)C2 | C26H31FN2O5S
